US07514583B2
3,4,3′,4′-tetrahydroxybenzoin;
3,4,3′,4′-tetrahydroxydiphenylmethane; 1,2-bis(3,4-dihydroxyphenyl)ethane; 2,4-bis(3,4-dihydroxybenzyl)-3-tropinone; 1,4-bis(3,4-dihydroxybenzoyl)piperazine; 3,4-dihydroxybenzoic acid 3,4-dihydroxyanilide; 3,4-dihydroxybenzoic acid 3,4-dihydroxybenzylamide; 3-(3,4-dihydroxyphenyl)propionic acid 3,4-dihydroxybenzylamide; oxalic acid bis(3,4-dihydroxyanilide); succinic acid bis(3,4-dihydroxyanilide); tris(3,4-dihydroxybenzyl)amine; and 1-(3,4-dihydroxyphenyl)-3-(3,4-dihydroxyphenethyl)urea;

reactant | 1,2-bis(3,4-dihydroxyphenyl)ethane | OC=1C=C(C=CC1O)CCC1=CC(=C(C=C1)O)O | C14H14O4
reactant | 1,4-bis(3,4-dihydroxybenzoyl)piperazine | OC=1C=C(C(=O)N2CCN(CC2)C(C2=CC(=C(C=C2)O)O)=O)C=CC1O | C18H18N2O6
reactant | 3,4-dihydroxybenzoic acid 3,4-dihydroxybenzylamide | OC=1C=C(CNC(C2=CC(=C(C=C2)O)O)=O)C=CC1O | C14H13NO5
reactant | 3-(3,4-dihydroxyphenyl)propionic acid 3,4-dihydroxybenzylamide | OC=1C=C(CNC(CCC2=CC(=C(C=C2)O)O)=O)C=CC1O | C16H17NO5
reactant | tris(3,4-dihydroxybenzyl)amine | OC=1C=C(CN(CC2=CC(=C(C=C2)O)O)CC2=CC(=C(C=C2)O)O)C=CC1O | C21H21NO6
reactant | 1-(3,4-dihydroxyphenyl)-3-(3,4-dihydroxyphenethyl)urea | OC=1C=C(C=CC1O)NC(=O)NCCC1=CC(=C(C=C1)O)O | C15H16N2O5
product | 3,4,3′,4′-tetrahydroxybenzoin | OC=1C=C(C=CC1O)C(=O)C(O)C1=CC(=C(C=C1)O)O | C14H12O6
